US05037978
Butyl Acrylate
One hundred forty eight grams (2.0 moles) of n-butanol, 516 g (6.0 moles) methyl acrylate, 1.15 g hafnium acetylacetonate, 0.10 g of MEHQ inhibitor, 0.1 g phenothiazine, and 0.10 g diethylhydroxylamine were added to a 2 liter flask equipped as described in Example 3. The solution was heated at reflux (atmospheric pressure) while an azeotropic mixture of methyl acrylate and methanol was removed from the top of the column. The reaction was continued in this manner for 2 hours while the temperature at the top of the column was 62°-64° C. and the temperature in the reaction vessel was 82°-97° C. GLC analysis of the reaction mixture showed >99% conversion of the n-butanol to butyl acrylate.

reactant | n-butanol | 2.0 moles, One hundred forty eight grams | C(CCC)O | C4H10O
reactant | methyl acrylate | 6.0 moles, 516 g | C(C=C)(=O)OC | C4H6O2
reactant | MEHQ | 0.10 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | phenothiazine | 0.1 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | diethylhydroxylamine | 0.10 g | C(C)N(O)CC | C4H11NO
solvent | methanol | CO | CH4O
product | Butyl Acrylate | C(C=C)(=O)OCCCC | C7H12O2
